US08193359B2
Furo[3,2-c]pyridin-2-ylmethanol
NaBH4 (0.26 g, 6.8 mmol) was added to a stirred solution of furo[3,2-c]pyridine-2-carbaldehyde (2.00 g, 13.6 mmol) in anhydrous MeOH (25 mL) at 0° C. After 1.5 h, the reaction was quenched with H2O (20 mL), before being extracted with CH2Cl2 (3×30 mL). The combined organic extracts were dried (MgSO4), filtered, and concentrated to provide the title compound: m/z (ES+)=150.0 [M+H]+.

reactant | NaBH4 | 6.8 mmol, 0.26 g | [BH4-].[Na+]
reactant | furo[3,2-c]pyridine-2-carbaldehyde | 13.6 mmol, 2.00 g | O1C(=CC=2C=NC=CC21)C=O | C8H5NO2
solvent | MeOH | 25 mL | CO | CH4O
product | Furo[3,2-c]pyridin-2-ylmethanol | O1C(=CC=2C=NC=CC21)CO | C8H7NO2
